US06002008
4-[(3-Bromophenyl)amino]-8-methoxy -3-quinolinecarbonitrile
A solution of 328.0 mg (1.5 mmol) of 4-chloro-8-methoxy -3-quinolinecarbonitrile, 309.7 mg (1.8 mmol) of 3-bromoaniline and 173.3 mg (1.5 mmol) of pyridine hydrochloride in 15 ml of 2-ethoxyethanol was refluxed under nitrogen for 0.5 hours. The solvent was removed and the residue was diluted with water followed by neutralization to pH 7-8 with diluted sodium carbonate solution. The precipitate was collected and washed with ether and dried in vacuo to give 476.1 mg (89.6%) of the product as a yellow solid, m.p. 210-212° C.; mass spectrum (electrospray, m/e): M+H 353.8, 355.8.

reactant | 4-chloro-8-methoxy -3-quinolinecarbonitrile | 1.5 mmol, 328.0 mg | ClC1=C(C=NC2=C(C=CC=C12)OC)C#N | C11H7ClN2O
reactant | 3-bromoaniline | 1.8 mmol, 309.7 mg | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | pyridine hydrochloride | 1.5 mmol, 173.3 mg | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 15 ml | C(C)OCCO | C4H10O2
product | 4-[(3-Bromophenyl)amino]-8-methoxy -3-quinolinecarbonitrile | 476.1 mg, 89.6% | BrC=1C=C(C=CC1)NC1=C(C=NC2=C(C=CC=C12)OC)C#N | C17H12BrN3O
